US05523299
1-Propionylpiperidine (D28)
This compound was prepared by a method analogous to that of description 9 using piperidine in place of heptamethyleneimine and propionyl chloride in place of acetyl chloride.

reactant | piperidine | N1CCCCC1 | C5H11N
reactant | propionyl chloride | C(CC)(=O)Cl | C3H5ClO
product | 1-Propionylpiperidine | C(CC)(=O)N1CCCCC1 | C8H15NO
